US06787536B2
2-(R)-[4-(5-Pyridin-3-ylpyrimidin-2-yl)piperazine-1-sulfonylmethyl]-N-hydroxy-3-methylbutyramide
Prepared according to the method for the preparation of 2-(R)-{4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-N-hydroxy-3-methylbutyramide, from 3-methyl-2-(R)-[4-(5-pyridin-3-ylpyrimidin-2-yl)piperazine-1-sulfonylmethyl]butyric acid (0.137 g), to provide the title compound as a white solid (0.126 g, 88%).

reactant | 2-(R)-{4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-N-hydroxy-3-methylbutyramide | FC1=CC=C(C=C1)C=1C=NC(=NC1)N1CCN(CC1)S(=O)(=O)C[C@@H](C(=O)NO)C(C)C | C20H26FN5O4S
reactant | 3-methyl-2-(R)-[4-(5-pyridin-3-ylpyrimidin-2-yl)piperazine-1-sulfonylmethyl]butyric acid | 0.137 g | CC([C@H](C(=O)O)CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=N1)C=1C=NC=CC1)C | C19H25N5O4S
product | 2-(R)-[4-(5-Pyridin-3-ylpyrimidin-2-yl)piperazine-1-sulfonylmethyl]-N-hydroxy-3-methylbutyramide | 0.126 g, 88% | N1=CC(=CC=C1)C=1C=NC(=NC1)N1CCN(CC1)S(=O)(=O)C[C@@H](C(=O)NO)C(C)C | C19H26N6O4S
